2106-11-04 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2106-11-3**] 09:09 AM
 TRANSTHORACIC ECHO - At [**2106-11-3**] 11:23 AM
 LUMBAR PUNCTURE - At [**2106-11-3**] 05:04 PM
 INTRAVENTRICULAR DRAIN INSERTED - At [**2106-11-3**] 07:54 PM
 ICP CATHETER - START [**2106-11-3**] 09:04 PM
 MULTI LUMEN - STOP [**2106-11-4**] 12:53 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2106-11-3**] 11:00 AM
   Cefazolin - [**2106-11-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-11-3**] 11:00 AM
   Haloperidol (Haldol) - [**2106-11-3**] 07:42 PM
   Heparin Sodium (Prophylaxis) - [**2106-11-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-4**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (96.9
   HR: 61 (50 - 101) bpm
   BP: 94/55(65) {82/55(61) - 119/97(100)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    ICP: 4 (1 - 9) mmHg
   Total In:
                                                                  2,094 mL
                                                                  1,293 mL
   PO:
   TF:
                                                                    146 mL
                                                                    306 mL
   IVF:
                                                                  1,108 mL
                                                                    627 mL
   Blood products:
   Total out:
                                                                  1,279 mL
                                                                    367 mL
   Urine:
                                                                  1,220 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
                                                                     59 mL
                                                                     52 mL
   Balance:
                                                                    815 mL
                                                                    926 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, sleeping
   Eyes / Conjunctiva: PERRL, blinks to confrontation
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, neck supple,
   shunt not felt, no tenderness in right neck
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), physiologic split s2 with
   s4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abd: soft, +bs, mildly distended, no clear grimacing on palpation
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, Rash: bilateral breast erythematous, blanching
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): not oriented, Movement: Not assessed, Tone: Not
   assessed, baseline per staff
   Labs / Radiology
   129 K/uL
   11.1 g/dL
   102 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.2 mEq/L
   7 mg/dL
   113 mEq/L
   147 mEq/L
   30.8 %
   5.1 K/uL
        [image002.jpg]
                            [**2106-11-4**]  02:02 AM
   WBC
   5.1
   Hct
   30.8
   Plt
   129
   Cr
   0.5
   Glucose
   102
   Other labs: PT / PTT / INR:13.3/27.5/1.1, Lactic Acid:1.2 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
   54 yo F with mental retardation transferred from an outside hospital
   who presents with mental status changes and fever, found to be
   fluid-responsive hypotensive in th ER.
   1. Previous Fever/mental status changes: The patient at baseline has
   severe mental retardation and would likely be susceptible to any
   delirium regardless of the source.  The Leukocytosis in context of
   fever is of course concerning for infection, but fever has resolved.
   The urine analysis at the outside hospital was weakly positive and may
   represent a mild urinary tract infection.  However given the patient
   significant mental status changes, we initially had concern for neuro
   infection. Hence, an LP was performed. Analysis of CSF was not
   remarkable except for pressure approaching 30. Moreover, review of
   [**Hospital3 **] CT with neurosurgery was remarkable for interval
   ventricular dilatation. Hence, a drain was placed s/p the LP. Drain
   pressures have been [**2-25**].
   In light of the evolving neurologic picture, mental status changes are
   now likely secondary to UTI and/or hydrocephalus. The only other option
   on the diff is an aspiration PNA ?seen as subtle changes in the right
   lung base. All things considered, the Ancef should continue s/p drain
   placement clarify with NS for course), but I do not feel strongly about
   the other abx.
   -Discuss Abx with team.
   -Clarify Ancef course w NS
   -Clarify Drain course with NS
   -notify for pressure greater than 18
   - follow up outstanding cultures
   2. Hypotension: Now resolved.  The patient was hypotensive that was
   fluid responsive and now normotensive.  Will follow blood pressures and
   bolus as needed.
   3. Hypernatremia: 147 today, in midst of D5W correction.
   -Re-calculate defecit and adjust fluids today; basic parameters as
   usual
[**11-18**] defecit in first 24 hours only.
   -Repeat CHM 7 this evening
   #. HCT drop: 5 points overnight. Received fluids but can
t alone
   explain drop by dilution. In setiing if new shunt, some concern for
   head bleed, though would expect to see increased pressures on drain.
   -Repeat HCT today
   -inform NS of drop
   -Guaic all stool
   4. Hydrocephalus:  The patient is currently asymptomatic but with
   significant hydrocephalus on CT at osh, s/p LP and drain placement as
   above. Please [**Last Name **] problem #1 for plan, and:
   - discuss with NS replacement of old shunt. It is not possible to
   determine if this shunt is still functioning.
   5. Bowel distension:  Likely with constipation.  Good BM yesterday.
   Will treat with bowel meds.
   -con
t Bowel meds
   6. Atrial fibrillation:  The patient is currently in normal sinus
   rhythm.  Will restart aspirin when no longer has potential for shunt
   evaluation.
   7. Hypothyroidism: Patient will continue on home medications.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-11-3**] 06:23 PM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-11-3**] 06:32 PM
   ICP Catheter - [**2106-11-3**] 09:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: ICU care

2106-11-04 09:42:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, fever, hydrocephalus, anemia
   HPI:
   LP yesterday showed elevated CSF pressures. CT obtained from [**Hospital3 125**] - ventricles were extremely large. An intraventricular drain
   was placed; pressures were normal on entry.
   Afebrile yesterday. WBC normal.
   24 Hour Events:
 MULTI LUMEN - START [**2106-11-3**] 09:09 AM
 TRANSTHORACIC ECHO - At [**2106-11-3**] 11:23 AM
 LUMBAR PUNCTURE - At [**2106-11-3**] 05:04 PM
 INTRAVENTRICULAR DRAIN INSERTED - At [**2106-11-3**] 07:54 PM
 ICP CATHETER - START [**2106-11-3**] 09:04 PM
 MULTI LUMEN - STOP [**2106-11-4**] 12:53 AM
   History obtained from Medical records
   Patient unable to provide history: Mental retardation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2106-11-3**] 11:00 AM
   Cefazolin - [**2106-11-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-11-3**] 11:00 AM
   Haloperidol (Haldol) - [**2106-11-3**] 07:42 PM
   Heparin Sodium (Prophylaxis) - [**2106-11-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-4**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.6
C (96.1
   HR: 86 (50 - 101) bpm
   BP: 118/78(88) {82/55(61) - 118/78(88)} mmHg
   RR: 23 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   ICP: 6 (1 - 9) mmHg
   Total In:
                                                                  2,094 mL
                                                                  1,664 mL
   PO:
   TF:
                                                                    146 mL
                                                                    410 mL
   IVF:
                                                                  1,108 mL
                                                                    644 mL
   Blood products:
   Total out:
                                                                  1,279 mL
                                                                    712 mL
   Urine:
                                                                  1,220 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
                                                                     59 mL
                                                                     77 mL
   Balance:
                                                                    815 mL
                                                                    952 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese, PEG, tympanitic
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   129 K/uL
   102 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.2 mEq/L
   7 mg/dL
   113 mEq/L
   147 mEq/L
   30.8 %
   5.1 K/uL
        [image002.jpg]
                            [**2106-11-4**]  02:02 AM
   WBC
   5.1
   Hct
   30.8
   Plt
   129
   Cr
   0.5
   Glucose
   102
   Other labs: PT / PTT / INR:13.3/27.5/1.1, Lactic Acid:1.2 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: low lung volumes. Subtle infiltrate RLL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
   FEVER
   HYPERNATREMIA
   HYPOTENSION
   ANEMIA
   HYDROCEPHALUS
   High CSF pressures may have been relieved by LP or may have reflected
   patient's agitation during procedure. Pressures now normal.
   Mental status appears to be at baseline.
   Afebrile. Unclear source of infection; CXR shows what may be a subtle
   infltrate in the postero-basal segment of RLL but patient appears to be
   responding to treatment for UTI. Infiltrate may represent
   non-infectious pneumonitis from chemical aspiration.
   Blood pressure has been stable.
   Hct down from admission with volume repletion. No evidence of bleeding,
   but will guaiac stool. Not at threshold for transfusion.
   Needs free water repletion for hypernatremia.
   ICU Care
   Nutrition: tube feeds per PEG
   Replete with Fiber (Full) - [**2106-11-3**] 06:23 PM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-11-3**] 06:32 PM
   ICP Catheter - [**2106-11-3**] 09:04 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2106-11-05 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Am rounds - no evidence infx, on bactrim and ancef, no plan for picc
   - neurosurgery did not want transfer; increased cefazolin to 2g,
   - CT of head was obtained and prelim read with no change.
   - Drain pressure was increased to 20cm above the tragus.
   - guaiac negative stool
   - hypernatremic... given 750cc D5 overnight, resolved this AM.
   - CSF cultures without growth to date.
   Allergies:
   Benzodiazepines
   Bradycardia;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2106-11-3**] 11:00 AM
   Cefazolin - [**2106-11-4**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-11-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-5**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 78 (67 - 103) bpm
   BP: 146/91(116) {100/60(74) - 146/102(128)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    ICP: 7 (0 - 15) mmHg
   Total In:
                                                                  4,353 mL
                                                                  1,096 mL
   PO:
   TF:
                                                                  1,177 mL
                                                                    394 mL
   IVF:
                                                                  1,556 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  2,401 mL
                                                                  1,253 mL
   Urine:
                                                                  2,210 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
                                                                    191 mL
                                                                     53 mL
   Balance:
                                                                  1,952 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Drain C/D/I
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   oriented, Tone: Not assessed
   Labs / Radiology
   127 K/uL
   11.8 g/dL
   91 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.1 mEq/L
   7 mg/dL
   113 mEq/L
   142 mEq/L
   32.4 %
   5.5 K/uL
        [image002.jpg]
                            [**2106-11-4**]  02:02 AM
                            [**2106-11-4**]  04:42 PM
                            [**2106-11-5**]  04:52 AM
   WBC
   5.1
   5.5
   Hct
   30.8
   32.3
   32.4
   Plt
   129
   127
   Cr
   0.5
   0.4
   0.5
   Glucose
   102
   109
   91
   Other labs: PT / PTT / INR:13.3/27.5/1.1, Lactic Acid:1.2 mmol/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
   54 yo F with mental retardation transferred from an outside hospital
   who presents with mental status changes and fever, found to be
   fluid-responsive hypotensive in th ER.
   1. Previous Fever/mental status changes: The patient at baseline has
   severe mental retardation and would likely be susceptible to any
   delirium regardless of the source.  The Leukocytosis in context of
   fever is of course concerning for infection, but fever has resolved.
   The urine analysis at the outside hospital was weakly positive and may
   represent a mild urinary tract infection.  However given the patient
   significant mental status changes, we initially had concern for neuro
   infection. Hence, an LP was performed. Analysis of CSF was not
   remarkable except for pressure approaching 30. Moreover, review of
   [**Hospital3 **] CT with neurosurgery was remarkable for interval
   ventricular dilatation. Hence, a drain was placed s/p the LP. Drain
   pressures have been [**2-25**].
   In light of the evolving neurologic picture, mental status changes are
   now likely secondary to UTI and/or hydrocephalus. The only other option
   on the diff is an aspiration PNA ?seen as subtle changes in the right
   lung base. Ancef and bactrim to continue, no other Abx at this time.
   -ANCEF and Bactrim to continue
   -NS will likely pull drain today.
   -notify for pressure greater than 18
   - follow up outstanding cultures
   2. Hypotension: Now resolved.  The patient was hypotensive that was
   fluid responsive and now normotensive.  Will follow blood pressures and
   bolus as needed.
   -Inactive issue
   3. Hypernatremia: 147 yesterday
 142 today s/p free water
   -Repeat CHM 7 this evening
   #. HCT drop: 5 points overnight. Received fluids but can
t alone
   explain drop by dilution. In setiing if new shunt, some concern for
   head bleed, though would expect to see increased pressures on drain.
   -Stable at 35.1
 30.8
 32.3
32.4
   -Guaic all stool
   -con
t to monitor
   4. Hydrocephalus:  The patient is currently asymptomatic but with
   significant hydrocephalus on CT at osh, s/p LP and drain placement as
   above. Please [**Last Name **] problem #1 for plan, and:
   - discuss with NS replacement of old shunt. It is not possible to
   determine if this shunt is still functioning.
   5. Bowel distension:  Likely with constipation.  Good BM yesterday.
   Will treat with bowel meds.
   -con
t Bowel meds
   6. Atrial fibrillation:  The patient is currently in normal sinus
   rhythm.  Will restart aspirin when no longer has potential for shunt
   evaluation.
   7. Hypothyroidism: Patient will continue on home medications.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-11-4**] 05:24 PM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-11-3**] 06:32 PM
   ICP Catheter - [**2106-11-3**] 09:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-11-05 10:34:00 Physician Attending Progress Note
Chief Complaint: Hypotension, altered mental status, hydrocephalus,
   anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Ventricular drain in place throughout the night.
   Received free water throughout the day yesterday.
   Afebrile.
   24 Hour Events:
   Allergies:
   Benzodiazepines
   Bradycardia;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2106-11-3**] 11:00 AM
   Cefazolin - [**2106-11-4**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-11-5**] 09:33 AM
   Other medications:
   Synthoid, tegeretol, Bactrim, atorvostatin, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-5**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 78 (68 - 103) bpm
   BP: 146/91(116) {100/60(74) - 146/102(128)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   ICP: 2 (0 - 15) mmHg
   Total In:
                                                                  4,353 mL
                                                                  1,588 mL
   PO:
   TF:
                                                                  1,177 mL
                                                                    558 mL
   IVF:
                                                                  1,556 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  2,401 mL
                                                                  1,943 mL
   Urine:
                                                                  2,210 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
                                                                    191 mL
                                                                    123 mL
   Balance:
                                                                  1,952 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), Physiological split S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   127 K/uL
   91 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.1 mEq/L
   7 mg/dL
   113 mEq/L
   142 mEq/L
   32.4 %
   5.5 K/uL
        [image002.jpg]
                            [**2106-11-4**]  02:02 AM
                            [**2106-11-4**]  04:42 PM
                            [**2106-11-5**]  04:52 AM
   WBC
   5.1
   5.5
   Hct
   30.8
   32.3
   32.4
   Plt
   129
   127
   Cr
   0.5
   0.4
   0.5
   Glucose
   102
   109
   91
   Other labs: PT / PTT / INR:13.3/27.5/1.1, Lactic Acid:1.2 mmol/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
   ANEMIA
   Mental status at baseline. Ventricular fluid is still being drained.
   Need to discuss with neurosurgery whether she will have recurrence of
   elevated pressures if drain removed.
   Hypotension resolved.
   Serum Na normal after free water repletion. Needs maintenance free
   water now since she cannot drink on her own.
   Mild anemia. Hct stable. No evidence of bleeding. Not at transfusion
   threshold.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-11-4**] 05:24 PM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-11-3**] 06:32 PM
   ICP Catheter - [**2106-11-3**] 09:04 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2106-11-06 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ICP CATHETER - STOP [**2106-11-5**] 03:45 PM
   - Neurosurgery - D/cd ICP drain, 1 more dose ancef, staples at site
   removed in 10 days (please call neurosugery b/f d/c
   - Hypernatremia improved today - replete FW 300 cc [**Hospital1 **] po, 1300 lytes,
   pm lytes
   - Cx data negative
   - pm lytes - wnl
   - repeat urine lytes - relatively unchanged
   Allergies:
   Benzodiazepines
   Bradycardia;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2106-11-5**] 12:56 PM
   Cefazolin - [**2106-11-6**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-11-5**] 08:57 AM
   Heparin Sodium (Prophylaxis) - [**2106-11-6**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   No changes to the medical and family history at this time.
   Review of systems is unchanged from admission except as noted below
   Review of systems: There are no changes to the review of systems noted
   at this time.
   Flowsheet Data as of  [**2106-11-6**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 64 (64 - 89) bpm
   BP: 106/80(85) {106/78(85) - 171/109(122)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    ICP: 10 (0 - 10) mmHg
   Total In:
                                                                  3,515 mL
                                                                  1,120 mL
   PO:
   TF:
                                                                  1,325 mL
                                                                    398 mL
   IVF:
                                                                    339 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  4,543 mL
                                                                  1,880 mL
   Urine:
                                                                  4,380 mL
                                                                  1,880 mL
   NG:
   Stool:
   Drains:
                                                                    163 mL
   Balance:
                                                                 -1,028 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GEN: well-nourished, no acute distress , asleep
   HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or rhinorrhea, MMM,
   OP Clear . Drain entrance C/D/I.
   NECK: No JVD, carotid pulses brisk, no bruits, no cervical
   lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: No C/C/E, no palpable cords
   NEURO: Difficult to assess in light of MS; but no gross defecits except
   in cognition at baseline.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   145 K/uL
   11.0 g/dL
   100 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   143 mEq/L
   30.6 %
   5.2 K/uL
        [image002.jpg]
                            [**2106-11-4**]  02:02 AM
                            [**2106-11-4**]  04:42 PM
                            [**2106-11-5**]  04:52 AM
                            [**2106-11-5**]  02:33 PM
                            [**2106-11-6**]  03:50 AM
   WBC
   5.1
   5.5
   5.2
   Hct
   30.8
   32.3
   32.4
   30.6
   Plt
   129
   127
   145
   Cr
   0.5
   0.4
   0.5
   0.6
   0.7
   Glucose
   102
   109
   91
   101
   100
   Other labs: PT / PTT / INR:13.3/27.5/1.1, Lactic Acid:1.2 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
   54 yo F with mental retardation transferred from an outside hospital
   who presents with mental status changes and fever, found to be
   fluid-responsive hypotensive in th ER.
   1. Previous Fever/mental status changes: The patient at baseline has
   severe mental retardation and would likely be susceptible to any
   delirium regardless of the source.  The Leukocytosis in context of
   fever is of course concerning for infection, but fever has resolved.
   The urine analysis at the outside hospital was weakly positive and may
   represent a mild urinary tract infection.  However given the patient
   significant mental status changes, we initially had concern for neuro
   infection. Hence, an LP was performed. Analysis of CSF was not
   remarkable except for pressure approaching 30. Moreover, review of
   [**Hospital3 **] CT with neurosurgery was remarkable for interval
   ventricular dilatation. Hence, a drain was placed s/p the LP. Drain
   pressures have been [**2-25**].
   In light of the evolving neurologic picture, mental status changes are
   now likely secondary to hydrocephalus. The only other option on the
   diff is an aspiration PNA ?seen as subtle changes in the right lung
   base. Received last dose of Ancef this AM, Bactrim continues.
   - Bactrim to continue
   -NS will see today, then sigh-off.
   - follow up outstanding cultures
   2. Hypotension: Now resolved.  The patient was hypotensive that was
   fluid responsive and now normotensive.  Will follow blood pressures and
   bolus as needed.
   -Inactive issue
   3. Hypernatremia: 147 yesterday
 142 today s/p free water
   -Repeat CHM 7 this evening
   # HCT drop: 5 points overnight. Received fluids but can
t alone explain
   drop by dilution. In setiing if new shunt, some concern for head bleed,
   though would expect to see increased pressures on drain.
   -Stable at 35.1
 30.8
 32.3
32.4
30.6
   -Guaic all stool
   -con
t to monitor
   4. Hydrocephalus:  The patient is currently asymptomatic but with
   significant hydrocephalus on CT at osh, s/p LP and drain placement as
   above. Please [**Last Name **] problem #1 for plan, and:
   - discuss with NS replacement of old shunt. It is not possible to
   determine if this shunt is still functioning.
   5. Bowel distension:  Likely with constipation.  Good BM yesterday.
   Will treat with bowel meds.
   -con
t Bowel meds
   6. Atrial fibrillation:  The patient is currently in normal sinus
   rhythm.  Will restart aspirin when no longer has potential for shunt
   evaluation.
   7. Hypothyroidism: Patient will continue on home medications.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-11-5**] 12:10 PM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-11-3**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-11-06 09:35:00 Physician Attending Progress Note
Chief Complaint: mental status changes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ICP CATHETER - STOP [**2106-11-5**] 03:45 PM - drain removed
   HyperNa:
   Allergies:
   Benzodiazepines
   Bradycardia;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2106-11-5**] 12:56 PM
   Cefazolin - [**2106-11-6**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-11-6**] 08:00 AM
   Other medications: PPI, Synthroid, Tegretol, Bactrim, Atorvastatin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-6**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.3
   HR: 77 (63 - 89) bpm
   BP: 134/89(92) {103/72(79) - 171/109(122)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   ICP: 10 (0 - 10) mmHg
   Total In:
                                                                  3,515 mL
                                                                  1,269 mL
   PO:
   TF:
                                                                  1,325 mL
                                                                    524 mL
   IVF:
                                                                    339 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                  4,543 mL
                                                                  2,140 mL
   Urine:
                                                                  4,380 mL
                                                                  2,140 mL
   NG:
   Stool:
   Drains:
                                                                    163 mL
   Balance:
                                                                 -1,028 mL
                                                                   -871 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), Physiological split S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   145 K/uL
   100 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   143 mEq/L
   30.6 %
   5.2 K/uL
        [image002.jpg]
                            [**2106-11-4**]  02:02 AM
                            [**2106-11-4**]  04:42 PM
                            [**2106-11-5**]  04:52 AM
                            [**2106-11-5**]  02:33 PM
                            [**2106-11-6**]  03:50 AM
   WBC
   5.1
   5.5
   5.2
   Hct
   30.8
   32.3
   32.4
   30.6
   Plt
   129
   127
   145
   Cr
   0.5
   0.4
   0.5
   0.6
   0.7
   Glucose
   102
   109
   91
   101
   100
   Other labs: PT / PTT / INR:13.3/27.5/1.1, Lactic Acid:1.2 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
   1.       Mental status: seems to be at baseline. EVD never confirmed
   ICP and was removed by Nsurg yesterday. Shunt is believed to be
   functioning properly. Ventricular fluid is still being drained.
   2.       Hypotension resolved.
   3.       HyerNatremia: Serum Na normal after free water repletion.
   Needs maintenance free water now since she cannot drink on her own.
   4.       Mild anemia. Hct stable. No evidence of bleeding. Not at
   transfusion threshold
   5.       Constipation: moving bowels
   ICU Care
   Nutrition: Replete with Fiber (Full) - [**2106-11-5**] 12:10 PM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-11-3**] 06:32 PM
   Prophylaxis:
   DVT: Sc hep
   Stress ulcer: PPI
   Communication:  with [**Last Name (un) 4419**] house caretakers
   [**Name (NI) 36**] status: Full code
   Disposition : call out
   Total time spent: 35 minutes